US04101720
Tribenzyl phosphite;
dibenzyl phosphite; trilauryl phosphite; trilauryl phosphine; triphenyl phosphine; tribenzyl phosphine.

reactant | dibenzyl phosphite | P(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)[O-]
reactant | trilauryl phosphite | P(OCCCCCCCCCCCC)(OCCCCCCCCCCCC)OCCCCCCCCCCCC | C36H75O3P
reactant | trilauryl phosphine | C(CCCCCCCCCCC)P(CCCCCCCCCCCC)CCCCCCCCCCCC | C36H75P
reactant | triphenyl phosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tribenzyl phosphine | C(C1=CC=CC=C1)P(CC1=CC=CC=C1)CC1=CC=CC=C1 | C21H21P
product | Tribenzyl phosphite | P(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C21H21O3P
